US09120822B2
Borane dimethyl sulfide complex (2M solution in tetrahydrofuran, 12.5 mL, 25.0 mmol, 10.0 eq) is added at room temperature to a stirred solution of 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one (821 mg, 2.50 mmol, 1.0 eq) in tetrahydrofuran (80 mL). The reaction mixture is heated to reflux for 3 hours, cooled down to 0° C. and cautiously quenched with methanol (10 mL) and then evaporated to give a residue that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 1:1, v/v) to afford trans-4-(6-methoxy-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexylamine as a yellow solid (340 mg, 45% yield).

reactant | Borane dimethyl sulfide | 25.0 mmol, 2M, 12.5 mL, 10.0 eq | CSC.B
reactant | 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one | 2.50 mmol, 821 mg, 1.0 eq | N[C@@H]1CC[C@H](CC1)C1C(NC=2C=NC3=CC=C(N=C3C2O1)OC)=O | C17H20N4O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | trans-4-(6-methoxy-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | 340 mg, 45% yield | COC=1N=C2C=3OC(CNC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N | C17H22N4O2
